US09260439B2
Step 1: Preparation of tert-butyl(3S)-3-{[6-chloro-5-(2-hydroxyethyl)-2-(methylsulfanyl)pyrimidin-4-yl]amino}-3-methylpyrrolidine-1-carboxylate
To a solution of 2-[4,6-dichloro-2-(methylsulfanyl)pyrimidin-5-yl]ethanol (1.25 g, 5.23 mmol) and tert-butyl(3S)-3-amino-3-methylpyrrolidine-1-carboxylate (1.57 g, 7.84 mmol) in DMSO (13 mL) was added DIEA (4.6 mL, 26.1 mmol) at room temperature. The reaction mixture was stirred at 110° C. for 42 h, whereupon the mixture was poured into EtOAc and washed with water. The water layer was extracted with EtOAc (3 times). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified via ISCO normal phase silica gel chromatography (80 g column) eluting with a 0-100% gradient of EtOAc/Heptane to give the title compound (1.37 g, 65%) as a light yellow-white foamy solid. 1H NMR (400 MHz, DMSO-d6) δ 6.96 (d, J=17.0 Hz, 1 H), 5.06 (br s, 1 H), 3.75 (dd, J=20.6, 11.2 Hz, 1 H), 3.54 (br s, 2 H), 3.50-3.33 (m, 3 H), 2.77 (t, J=6.3 Hz, 2 H), 2.44 (s, 3 H), 2.40-2.23 (m, 1 H), 2.03-1.93 (m, 1 H), 1.47 (d, J=11.1 Hz, 3 H), 1.38 (d, J=13.4 Hz, 9 H). m/z (APCI+) for C17H27ClN4O3S 403.9 (M+H)+.

reactant | 2-[4,6-dichloro-2-(methylsulfanyl)pyrimidin-5-yl]ethanol | 5.23 mmol, 1.25 g | ClC1=NC(=NC(=C1CCO)Cl)SC | C7H8Cl2N2OS
reactant | tert-butyl(3S)-3-amino-3-methylpyrrolidine-1-carboxylate | 7.84 mmol, 1.57 g | N[C@@]1(CN(CC1)C(=O)OC(C)(C)C)C | C10H20N2O2
reactant | DIEA | 26.1 mmol, 4.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 13 mL | CS(=O)C | C2H6OS
product | tert-butyl(3S)-3-{[6-chloro-5-(2-hydroxyethyl)-2-(methylsulfanyl)pyrimidin-4-yl]amino}-3-methylpyrrolidine-1-carboxylate | 1.37 g, 65% | ClC1=C(C(=NC(=N1)SC)N[C@@]1(CN(CC1)C(=O)OC(C)(C)C)C)CCO | C17H27ClN4O3S
